US07094800B2
1b) di-tert-butyl (S)-5-oxopyrrolidine-1,2-dicarboxylate
120 g of tert-butyl (S)-5-oxopyrrolidine-2-carboxylate were dissolved in 1.3 l of dichloromethane and cooled to 0° C. 3.9 g of 4-dimethylaminopryidine and 141 g of di-tert-butyl dicarbonate were added thereto. The mixture was stirred at 0° C. for 1 h and at room temperature for 12 h. The volume of the solution was then concentrated to about 300 ml in vacuo. The solution obtained in this way was filtered through 500 g of silica gel, eluting first with dichloromethane and then with 5% ethyl acetate in dichloromethane. The product fractions were combined and freed of solvents in vacuo.

reactant | tert-butyl (S)-5-oxopyrrolidine-2-carboxylate | 120 g | O=C1CC[C@H](N1)C(=O)OC(C)(C)C | C9H15NO3
reactant | di-tert-butyl dicarbonate | 141 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 1.3 l | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopryidine | 3.9 g | CN(C1=CC=NC=C1)C | C7H10N2
product | di-tert-butyl (S)-5-oxopyrrolidine-1,2-dicarboxylate | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H23NO5
